US08748429B2
(6S,7S,E)-methyl 7-(4-bromothiazol-5-yl)-7-(tert-butoxycarbonylamino)-6-(2,3-difluorophenyl)hept-2-enoate
A mixture of methyl acrylate (0.16 mL, 1.80 mmol), GrubbsII catalyst (0.025 g, 0.030 mmol) and tert-butyl (1S,2S)-1-(4-bromothiazol-5-yl)-2-(2,3-difluorophenyl)hex-5-enylcarbamate (0.2842 g, 0.600 mmol) in methylene chloride (20 mL) was heat to reflux for 3 h under nitrogen. The solvent was removed under vacuum and the crude product was purified by silica gel chromatography, eluting with ethyl acetate in hexane from 0 to 45% to give the desired product (273.2 mg, 86%): MS (ESI)[M+H+]=533.13. 1H NMR showed inseparable diastereomers with a ratio of 3.5:1.

reactant | methyl acrylate | 1.80 mmol, 0.16 mL | C(C=C)(=O)OC | C4H6O2
reactant | tert-butyl (1S,2S)-1-(4-bromothiazol-5-yl)-2-(2,3-difluorophenyl)hex-5-enylcarbamate | 0.600 mmol, 0.2842 g | BrC=1N=CSC1[C@H]([C@@H](CCC=C)C1=C(C(=CC=C1)F)F)NC(OC(C)(C)C)=O | C20H23BrF2N2O2S
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | (6S,7S,E)-methyl 7-(4-bromothiazol-5-yl)-7-(tert-butoxycarbonylamino)-6-(2,3-difluorophenyl)hept-2-enoate | 273.2 mg, 86% | BrC=1N=CSC1[C@H]([C@@H](CC/C=C/C(=O)OC)C1=C(C(=CC=C1)F)F)NC(=O)OC(C)(C)C | C22H25BrF2N2O4S
